US06867298B2
3,4-(Methylenedioxy)-N-furfurylaniline (FIG. 10, Entry 7)
Using the general procedure, 4-bromo-1,2-(methylenedioxy)benzene (120 μL, 1.0 mmol) was coupled with furfurylamine (132 μL, 1.5 mmol). Purification of the crude product by column chromatography on silica gel using hexane/ethyl acetate (8:1) as eluent afforded the desired product as a colorless oil (187 mg, 87% yield). Rf=0.5 (hexane/ethyl acetate=5:1).

reactant | 4-bromo-1,2-(methylenedioxy)benzene | 1.0 mmol, 120 μL | BrC1=CC2=C(C=C1)OCO2 | C7H5BrO2
reactant | furfurylamine | 1.5 mmol, 132 μL | C(C1=CC=CO1)N | C5H7NO
product | 3,4-(Methylenedioxy)-N-furfurylaniline | 187 mg, 87% yield | C1OC=2C=C(NCC3=CC=CO3)C=CC2O1 | C12H11NO3
